US07585885B2
N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid
Dissolve N-methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid methyl ester (50 mg, 0.16 mmol) in methanol (3 mL). Add 2 N NaOH (0.12 mL) and stir overnight at room temperature. Add 2 N NaOH (0.05 mL) and stir for an additional 3 h. Acidify the mixture to about pH=6 using DOWEX® 50WX2-100 ion exchange resin and filter. Concentrate filtrate to give the title compound which is used in the next step without further purification.

reactant | N-methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid methyl ester | 0.16 mmol, 50 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(=C)C)=O)=O | C17H21NO4
reactant | NaOH | 2 N, 0.12 mL | [OH-].[Na+]
reactant | NaOH | 2 N, 0.05 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | N-Methyl-5-(2-methylacryloyl)-N-propyl-isophthalamic acid | CN(C(C=1C=C(C(=O)O)C=C(C1)C(C(=C)C)=O)=O)CCC | C16H19NO4
